US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-ethoxy-ethyl) ester hydrochloride salt
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-ethoxyethanol according to the procedure of Example 1 as an oily off-white gummy solid; 1H NMR (300 MHz, CDCl3): δ 1.10-1.20 (t overlaps with d, J=6.9 Hz, 9H), 1.31-1.41 (brm, 2H), 2.75-2.90 (brm, 1H), 3.10-3.30 (brm, 2H), 3.50 (brq, J=6.9 Hz, 4H), 3.62-3.71 (brm, 4H), 4.37-4.47 (brm, 4H), 5.30-5.70 (brm, 2H), 6.70-6.90 (brm, 4H), 7.19-7.50 (brm, 3H), 8.50-8.85 (brs, 1H), 9.90-10.30 (brs, 1H); MS (ES) m/z (relative intensity): 566 (M+ -HCl, (60).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
reactant | HCl | Cl | ClH
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-ethoxy-ethyl) ester hydrochloride salt | Cl.C(C)OCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCOCC | InChI=1S/C28H36ClNO9.ClH/c1-4-34-11-13-36-26(32)28(27(33)37-14-12-35-5-2)38-24-10-9-20(16-25(24)39-28)15-19(3)30-18-23(31)21-7-6-8-22(29)17-21;/h6-10,16-17,19,23,30-31H,4-5,11-15,18H2,1-3H3;1H
